US07468446B2
To a stirred suspension of 1H-Indole-6-carboxylic acid (5.65 g, 35.1 mmol) in 55 mL of THF was added 1,1′-carbonyldiimidazole (6.25 g, 38.6 mmol). The suspension was stirred for 2 h at room temperature followed by addition of O,N-dimethyl-hydroxylamine hydrochloric acid (4.10 g, 42.1 mmol) in an ice-bath. The mixture ws stirred at room temperature overnight. The mixture was extracted with EtOAc (2×50 mL). The combined EtOAc extracts were washed brine (50 mL), dried over MgSO4, filtered and concentrated to an oil, which was purified by flash column chromatography (EtOAc/Hexane) to give 1H-Indole-6-carboxylic acid methoxy-methyl-amide as an oil (5.54 g, 77% yield): 1H NMR (CDCl3) δ 3.39 (s 3H, NCH3), 3.58 (s, 3H, OCH3), 6.55-6.57 (m, 1H, Ar), 7.29-7.84 (m, 4H, Ar), 8.85 (brs, 1H, NH). The product was used in the next step without further purification.

reactant | 1H-Indole-6-carboxylic acid | 35.1 mmol, 5.65 g | N1C=CC2=CC=C(C=C12)C(=O)O | C9H7NO2
reactant | 1,1′-carbonyldiimidazole | 38.6 mmol, 6.25 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | O,N-dimethyl-hydroxylamine hydrochloric acid | 42.1 mmol, 4.10 g | Cl.CONC
solvent | THF | 55 mL | C1CCOC1 | C4H8O
product | 1H-Indole-6-carboxylic acid methoxy-methyl-amide | 5.54 g, 77% yield | CON(C(=O)C1=CC=C2C=CNC2=C1)C | C11H12N2O2
